US07608629B2
Preparation 18. 4-(3-Bromo-2-fluoro-phenoxy)-1-methyl-piperidine
Add n-butyl lithium (1.6 M in hexane, 7.4 mL) to a solution of 2,2,6,6-tetramethyl-piperidine (1.67 g) in THF (30 mL) at −78° C. and stir. After 15 min., add dropwise a solution of 4-(2-fluoro-phenoxy)-1-methyl-piperidine preparation 17, 1.65 g) in THF (20 mL) and stir. After 1 hr., add dropwise 1,2-dibromo-1,1,2,2-tetrachloro-ethane (2.57 g) in THF (15 mL) and stir. After 30 min. at −78° C. and 1 hr. at room temperature, partition between ethyl acetate and saturated aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel column (110 g, solvent: dichloromethane-2M NH3 in methanol, gradient) to give the title compound (1.25 g). Mass spectrum (electric spray) m/z=288 (M+1), 290 (M+2+1); 1H NMR (CDCl3): 7.12 (m, 1H), 6.92 (m, 2H), 4.30 (m, 1H), 2.69 (m, 2H), 2.30 (s, 3H), 2.28 (m, 2H), 1.97 (m, 2H), 1.89 (m, 2H).

reactant | n-butyl lithium | 1.6 M, 7.4 mL | C(CCC)[Li]
reactant | 2,2,6,6-tetramethyl-piperidine | 1.67 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 4-(2-fluoro-phenoxy)-1-methyl-piperidine | FC1=C(OC2CCN(CC2)C)C=CC=C1 | C12H16FNO
reactant | 1,2-dibromo-1,1,2,2-tetrachloro-ethane | 2.57 g | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(3-Bromo-2-fluoro-phenoxy)-1-methyl-piperidine | 1.25 g | BrC=1C(=C(OC2CCN(CC2)C)C=CC1)F | C12H15BrFNO
